US05614638
To a solution of N,N'-bis[2-(acetyloxy)-1-(acetyloxy)methyl]ethyl]-5-[2-(iodomethyl)-5-oxo-1-pyrrolidinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide (12.00 g, 110 mmol) in acetonitrile (150 ml) was added tetraethylammonium acetate (5.74 g, 22 mmol) and the mixture stirred at 50° for 18 hours. Acetonitrile was removed in vacuo at 60°, the residue dissolved in ethyl acetate (200 ml), and the resulting solution washed with brine (2×100 ml) and with water (100 ml). The ethyl acetate layer was dried and removal of the solvent afforded the crude product as a colorless glassy solid. This material was purified by column chromatography over silica gel, using 20% hexane in ethyl acetate as eluent, to obtain N, N-bis[2-(acetyloxy)-1-[(acetyloxy)methyl]ethyl]-5-[2-(acetyloxy)methyl)-5-oxo-1-pyrrolidinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide as a colorless solid (9.4 g, 83.6% yield).

reactant | 5-[2-(iodomethyl)-5-oxo-1-pyrrolidinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide | 110 mmol, 12.00 g | ICC1N(C(CC1)=O)C=1C(=C(C(=C(C1I)C(=O)N)I)C(=O)N)I | C13H11I4N3O3
reactant | tetraethylammonium acetate | 22 mmol, 5.74 g | C(C)(=O)[O-].C(C)[N+](CC)(CC)CC
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2,4,6-triiodo-1,3-benzenedicarboxamide | 9.4 g, 83.6% yield | IC1=C(C(=CC(=C1C(=O)N)I)I)C(=O)N | C8H5I3N2O2
